US04187373
5,12-Benz[b]anthracene dicarboxaldehyde
A solution of 5 g. of 13,14-dihydroxy-5,12-ethanobenz[b]anthracene in 110 ml. of glacial acetic acid is treated all at once with 15.4 g. of lead tetraacetate and stirred at 30°-40° C. for 3 hours. The formed purple solid is filtered, washed once with acetic acid, finally with water, dried and recrystallized from methylene chloride-methanol to give purple needles, m.p. 215°-217° C.

reactant | 13,14-dihydroxy-5,12-ethanobenz[b]anthracene | OC1C(C2=C3C(=C1C1=CC4=CC=CC=C4C=C21)C=CC=C3)O | C20H14O2
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5,12-Benz[b]anthracene dicarboxaldehyde | C1=CC=CC=2C1=C(C1=CC3=CC=CC=C3C=C1C2C=O)C=O | C20H12O2
